US04166131
2-ethyl-2,α-dimethyl-5-indanacetic acid methyl ester
A solution of 8 g of 2-ethyl-α-hydroxy-2,α-dimethyl-5-indanacetic acid methyl ester in 100 cc of methanol and 8 cc of concentrated sulphuric acid is hydrogenated at 40° to 45° and a hydrogen pressure of 4 atmospheres with the addition of 0.8 g of platinum(IV) oxide. After the take up of the theoretic amount of hydrogen, the solution is filtered, diluted with a 5% sodium bicarbonate solution and extracted with ether. The extract is washed with water, dried over sodium sulphate and concentrated by evaporation. The resulting oily title compound is purified by distillation. B.P. 138°-140° at 0.3 mm of Hg.

reactant | 2-ethyl-α-hydroxy-2,α-dimethyl-5-indanacetic acid methyl ester | 8 g | COC(C(C=1C=C2CC(CC2=CC1)(C)CC)(C)O)=O | C16H22O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 cc | CO | CH4O
solvent | sulphuric acid | 8 cc | S(O)(O)(=O)=O | H2O4S
catalyst | platinum(IV) oxide | 0.8 g | [Pt](=O)=O
product | 2-ethyl-2,α-dimethyl-5-indanacetic acid methyl ester | COC(C(C=1C=C2CC(CC2=CC1)(C)CC)C)=O | C16H22O2
